US05847145
wherein 2-(9-decenyl)-1,3-oxazoline is reacted with trimethoxysilane to form 2-[10-(trimethoxysilyl)decyl]-1,3-oxazoline.

reactant | 2-(9-decenyl)-1,3-oxazoline | C(CCCCCCCC=C)C=1OCCN1 | C13H23NO
reactant | trimethoxysilane | CO[SiH](OC)OC | C3H10O3Si
product | 2-[10-(trimethoxysilyl)decyl]-1,3-oxazoline | CO[Si](CCCCCCCCCCC=1OCCN1)(OC)OC | C16H33NO4Si
